US07491732B2
A dry reaction flask equipped with a magnetic stirring bar, nitrogen inlet and rubber septum was charged with 2-carboxy-5-nitrobenzofuran (0.414 g, 2 mmol) and CH2Cl2 (100 mL). To this was added DMF (0.1 mL) followed by a slow addition of oxaloyl chloride (0.519 mL, 6 mmol) over the period of 5 minutes at 0° C. The reaction mixture was further stirred for 30 minutes by the time the formation of a clear solution was observed. The resulting clear solution was concentrated under a reduced pressure and dried under high vacuum for 30 minutes. The resulting residue was suspended in EtOAc (25 mL), cooled to 10° C., to it was added NH4OH (30% solution, 25 mL) and stirred at room temperature for 24 h. The organic phase was separated and dried over anhydrous sodium sulfate and solvent was removed to give 2-aminocarbonyl-5-nitrobenzofuran. 1H NMR (DMSO-d6): δ 8.75 (d, 1H, J=2.7 Hz), 8.28 (m, 2H), 7.86 (d, 1H, J=9.0 Hz), 7.83 (bs, 1H), 7.72 (s, 1H); LCMS: purity: 93%, MS (m/e): 206 (M+).

reactant | 2-carboxy-5-nitrobenzofuran | 2 mmol, 0.414 g | C(=O)(O)C=1OC2=C(C1)C=C(C=C2)[N+](=O)[O-] | C9H5NO5
reactant | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
reactant | oxaloyl chloride | 6 mmol, 0.519 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.1 mL | CN(C)C=O | C3H7NO
product | 2-aminocarbonyl-5-nitrobenzofuran | NC(=O)C=1OC2=C(C1)C=C(C=C2)[N+](=O)[O-] | C9H6N2O4
